US04939171
4 g (14 mmol) Vitride®, which is 70% sodium bis-(2-methoxy-ethoxy)-aluminum dihydride, were added dropwise with stirring and cooling with ice at 5° to 15° C. to a solution of 5 g (14 mmol) 4-farnesyloxybenzoic acid methyl ester in 30 ml toluene. The mixture was then heated for 2 hours to the boiling temperature, cooled and 10% sodium hydroxide solution added dropwise while cooling with ice (until the evolution of hydrogen stopped). After approx. 10 ml water and a few drops 2-propanol had been added, the toluene phase was separated off, the aqueous phase was washed twice with toluene and, after drying with sodium sulfate, was concentrated by evaporation. The residue was chromatographed on silica gel (Merck) (eluent: methylene chloride/methanol 99:1). 4-farnesyloxybenzyl alcohol having a refractive index n20 of 1.5305 was obtained in a yield of 3.6 g (78% of the theoretical).

reactant | Vitride | 14 mmol, 4 g | COCCO[AlH2-]OCCOC.[Na+]
reactant | sodium bis-(2-methoxy-ethoxy)-aluminum dihydride | [H-].[H-].COCCO[Al+]OCCOC.[Na+]
reactant | 4-farnesyloxybenzoic acid methyl ester | 14 mmol, 5 g | COC(C1=CC=C(C=C1)OCC=C(C)CCC=C(C)CCC=C(C)C)=O | C23H32O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 2-propanol | a few drops | CC(C)O | C3H8O
solvent | water | approx. 10 ml | O | H2O
product | 4-farnesyloxybenzyl alcohol | C(C=C(C)CCC=C(C)CCC=C(C)C)OC1=CC=C(CO)C=C1 | C22H32O2
